US06489344B1
1 mmol of 1-(2,4-dichlorophenyl)-2-morpholin-4-ylethan-1-one was heated to 80° C. in N,N-dimethylformamidedimethyl acetal for six hours. The reaction mixture was concentrated in vacuo and purified by trituration: with diethyl ether to obtain (2E)-1-(2,4-dichlorophenyl)-3-(dimethylamino)-2-morpholin-4-ylprop-2-en-1-one.

reactant | 1-(2,4-dichlorophenyl)-2-morpholin-4-ylethan-1-one | 1 mmol | ClC1=C(C=CC(=C1)Cl)C(CN1CCOCC1)=O | C12H13Cl2NO2
solvent | N,N-dimethylformamidedimethyl acetal | CN(C)C(OC)OC | C5H13NO2
product | (2E)-1-(2,4-dichlorophenyl)-3-(dimethylamino)-2-morpholin-4-ylprop-2-en-1-one | ClC1=C(C=CC(=C1)Cl)C(/C(=C\N(C)C)/N1CCOCC1)=O | C15H18Cl2N2O2
